US07414061B2
4-[1-(4-Methoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 2b, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (100 mg, 0.44 mmol) using 4-iodoanisole instead of iodobenzene was converted to the title compound (22 mg, 15%) which was obtained as a yellow gum. MS: m/e=332.3 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.44 mmol, 100 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 4-iodoanisole | IC1=CC=C(C=C1)OC | C7H7IO
product | 4-[1-(4-Methoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 22 mg, 15% | COC1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C20H17N3O2
